US05223498
A mixture of 1-(6-methyl-2-morpholinophenyl)thiourea (9 g) and methyl iodide (2.5 ml) in dry acetone (100 ml) was heated at reflux at 90°-95° C. for 2.5 hours to give 2-methyl-1-(6-methyl-2-morpholinophenyl)-2-thiopseudourea hydroiodide.

reactant | 1-(6-methyl-2-morpholinophenyl)thiourea | 9 g | CC1=CC=CC(=C1NC(=S)N)N1CCOCC1 | C12H17N3OS
reactant | methyl iodide | 2.5 ml | CI | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-methyl-1-(6-methyl-2-morpholinophenyl)-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC=C1C)N1CCOCC1)=N | InChI=1S/C13H19N3OS.HI/c1-10-4-3-5-11(12(10)15-13(14)18-2)16-6-8-17-9-7-16;/h3-5H,6-9H2,1-2H3,(H2,14,15);1H
